US08242104B2
8-Bromo-2-(2-isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (250 mg, 0.60 mmol), 3,6-dihydro-2H-pyridine-1-N-Boc-4-boronic acid pinacol ester (370 mg, 1.20 mmol), cesium carbonate (585 mg, 1.79 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium (ii) dichloride, dichloromethane (24 mg, 0.03 mmol) were suspended in DME (4.0 mL), IMS (1.3 mL) and water (0.68 mL) and the reaction mixture purged with argon. The reaction mixture was heated using microwave irradiation in a sealed tube at 140° C. for 20 min. The reaction mixture was washed with water, extracted with DCM (2×15 mL) and the combined organics were washed with brine, dried (Na2SO4) then concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, eluting with 5% methanol in DCM) to yield 4-[2-(2-Isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a brown foam (224 mg, 72%). LCMS: RT=5.08 min, [M+H]+=521

reactant | 8-Bromo-2-(2-isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 0.60 mmol, 250 mg | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)COC)C(C)C)C=C1 | C18H20BrN5O2
reactant | 3,6-dihydro-2H-pyridine-1-N-Boc-4-boronic acid pinacol ester | 1.20 mmol, 370 mg | B1(OC(C(O1)(C)C)(C)C)C2=CCN(CC2)C(=O)OC(C)(C)C | C16H28BNO4
reactant | cesium carbonate | 1.79 mmol, 585 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | 0.03 mmol, 24 mg | ClCCl | CH2Cl2
solvent | DME | 4.0 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium (ii) dichloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 4-[2-(2-Isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 224 mg, 72% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)COC)C(C)C)C=C1 | C28H36N6O4
